US07135600B2
(v) 3-(3-{[7-(Benzyl{(2R)-2-hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)heptyl]oxy}propyl)benzenesulfonamide
To a stirred, ice-cooled solution of 3-{3-[(7-{Benzyl[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}heptyl)oxy]propyl}benzenesulfonamide (97.2 g) in IMS (417 ml) was gradually added aqueous 1M hydrochloric acid (417 ml) keeping the temperature below 15° C. The mixture was then stirred at room temperature for ca 5 h. Saturated sodium bicarbonate (417 ml) and ethyl acetate (1000 ml) were then added to the mixture. The organic layer was separated off, washed with water (400 ml), brine (400 ml) and finally dried (Na2SO4). Concentration in vacuo gave the title compound (87.9 g)—LC RT=4.01 min.

reactant | 3-{3-[(7-{Benzyl[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}heptyl)oxy]propyl}benzenesulfonamide | 97.2 g | C(C1=CC=CC=C1)N(CCCCCCCOCCCC=1C=C(C=CC1)S(=O)(=O)N)C[C@H](O)C1=CC2=C(OC(OC2)(C)C)C=C1 | C35H48N2O6S
reactant | hydrochloric acid | 1M, 417 ml | Cl | ClH
reactant | sodium bicarbonate | 417 ml | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 1000 ml | C(C)(=O)OCC | C4H8O2
product | 3-(3-{[7-(Benzyl{(2R)-2-hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)heptyl]oxy}propyl)benzenesulfonamide | 87.9 g | C(C1=CC=CC=C1)N(CCCCCCCOCCCC=1C=C(C=CC1)S(=O)(=O)N)C[C@@H](C1=CC(=C(C=C1)O)CO)O | C32H44N2O6S
